Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
heparin
 
Attending: ___.
 
Chief Complaint:
lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo M with history of T12 spinal cord lesion
w/paraplegia, hypertension, and DVT/PE (on warfarin) who
presented to ___ on ___ with two days of shortness of
breath who was transferred to ___ for further evaluation.  
  
At ___, pt was HDS ___ F, 82, 142/87, 99% r/a). Labs with
Na 133, HCO3 21, Trop T .05, INR 5.81, PTT 46.3, urine with
ketones, ___ WBCs. Urine culture sent. CXR was w/o acute
abnormality. CTA demonstrated no evidence of PE but did show
"Patchy bilateral lower lobe airspace disease, right greater 
than
left." Because of elevated troponin, cardiology at ___
recommended transfer for further evaluation. He was given 2 mg 
IV
Ativan and NS prior to transfer.

In the ___ ED, pt noted lightheadedness w/near syncope and one
day of dyspnea without chest pain or other sx. 

-In the ED, initial VS were:  98.1 80 126/60 18 99% RA 

-Exam notable for:  
Gen: sleepy, NAD
CV: RRR, no m/r/g
Lungs CTAB
GI, S, NTND 
extremities: no peripheral edema
ECG:  Inferior Q waves

-Labs showed:  Hb 13.6, INR 6.3, Trop .05 --> Trop < .01, serum
tox negative

-Imaging showed: CT head w/o contrast: no acute intracranial
abnormality (ordered as patient was reportedly sleepy in ED)

-Consults: Atrius cardiology: admit to cardiology, obtain TTE in
the AM  

-Patient received:  N/a

-Transfer VS were:  97.8 78 ___ 97% RA 

On arrival to the floor, patient reports that he felt 
lightheaded
on ___ after going from sitting to standing. Then
he developed shortness of breath, which worsened from ___
into ___. Felt like he was gasping for air. Not worsened or
associated with activity. Came and went regardless of activity.
Unable to identify exacerbating or relieving factors. He is now
feeling completely normal and has no dyspnea. He denies chest
pain and pleuritic chest pain. SOB was not positional. It felt
similar to when he had his DVT/PE. He is active at the
___ gym and has no chest pain or SOB normally when
he is working out. Had one episode of lightheadedness as above,
but no other lightheadedness or passing out. He does not think
his SOB was related to anxiety or panic attack. 

He has not had any fevers, chills, cough, congestion, muscle
aches, muscle pains, leg swelling, orthopnea, PND, change in
weight, change in appetite, urinary sx, skin changes. 

He currently does have hives that he reports just started upon
arriving to the floor, but did not have skin changes prior. 
 
Past Medical History:
DVT/PE on warfarin
T12 spinal cord injury 
Essential hypertension 
Hyperlipidemia
Paraplegia following spinal cord injury 
Chronic left shoulder pain 
Severe AC joint degenerative change
Mild supraspinatus and infraspinatus tendinosis 
 
Social History:
___
Family History:
Mother: healthy
Father: ___
No family history of MI or sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS:  97.6 126 / 74 81 18 96 Ra 
GENERAL: Healthy male, appears younger than stated age
HEENT: No JVD, MMM   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTABL, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: NABS, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, R leg is ___, L leg is ___ 
SKIN: warm and well perfused, raised, smooth, flat-topped wheals
on the back of the thighs, chest, significant blanching of the
back and chest 

DISCHARGE PHYSICAL EXAM:
=========================
VS:  24 HR Data (last updated ___ @ 855)
    Temp: 97.7 (Tm 97.7), BP: 121/79 (121-126/74-79), HR: 73
(73-81), RR: 20 (___), O2 sat: 95% (95-96), O2 delivery: Ra  
GENERAL: Healthy male, appears younger than stated age
HEENT: No JVD, MMM   
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: NABS, nondistended, nontender in all quadrants, no
guarding 
EXTREMITIES: no lower extremity edema  
NEURO: A&Ox3, R leg is ___, L leg is ___ 
SKIN: warm and well perfused, raised, smooth, flat-topped wheals
on the back of the thighs, chest, significant erythema of the
back and chest  
 
Pertinent Results:
ADMISSION LABS:
================
___ 03:27PM BLOOD WBC-6.6 RBC-4.17* Hgb-13.6* Hct-39.5* 
MCV-95 MCH-32.6* MCHC-34.4 RDW-12.9 RDWSD-44.7 Plt ___
___ 03:27PM BLOOD Neuts-58.8 ___ Monos-11.7 
Eos-8.5* Baso-0.3 Im ___ AbsNeut-3.87 AbsLymp-1.34 
AbsMono-0.77 AbsEos-0.56* AbsBaso-0.02
___ 02:40PM BLOOD ___
___ 02:40PM BLOOD Glucose-86 UreaN-12 Creat-1.1 Na-141 
K-3.9 Cl-102 HCO3-25 AnGap-14
___ 08:26PM BLOOD ALT-14 AST-24 AlkPhos-70 TotBili-0.3
___ 02:40PM BLOOD Calcium-8.8 Phos-3.1 Mg-1.9
___ 02:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

NOTABLE LABS:
===============
___ 02:40PM BLOOD cTropnT-0.05*
___ 08:26PM BLOOD cTropnT-<0.01
___ 07:35AM BLOOD CK-MB-7 cTropnT-0.07*
___ 12:45PM BLOOD CK-MB-5 cTropnT-0.06*

NOTABLE IMAGING:
===============
___ TTE
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF = 70%). Posterior wall pseudodyskinesis is seen, 
suggesting cephalad displacement of the left hemidiaphragm. 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is systolic 
anterior motion of the mitral valve leaflets. The left 
ventricular inflow pattern suggests impaired relaxation. There 
is borderline pulmonary artery systolic hypertension. There is 
no pericardial effusion. 

DISCHARGE LABS:
===============
___ 07:35AM BLOOD WBC-6.7 RBC-4.68 Hgb-15.2 Hct-45.1 MCV-96 
MCH-32.5* MCHC-33.7 RDW-13.3 RDWSD-47.5* Plt ___
___ 07:35AM BLOOD ___ PTT-40.9* ___
___ 07:35AM BLOOD Glucose-85 UreaN-14 Creat-1.1 Na-141 
K-4.5 Cl-102 HCO3-28 AnGap-11
___ 07:35AM BLOOD ALT-14 AST-23 CK(CPK)-222 AlkPhos-71 
TotBili-0.7
___ 07:35AM BLOOD Albumin-3.8 Calcium-9.0 Phos-4.2 Mg-2.___ yo M with history of T12 spinal cord lesion w/paraplegia, 
hypertension, and PE (on warfarin) who presented to ___ on 
___ with two days of shortness of breath who was transferred 
to ___ for further evaluation. Found to have mild troponin 
elevation. Stress test recommended, but patient wanted to leave 
and have test as outpatient against medical recommendations.

ACUTE ISSUES: 
============== 
#SHORTNESS OF BREATH
Patient reports shortness of breath for several hours w/o 
exacerbating or relieving factors. No CP or DOE normally and 
patient is very active. Denies any recent anxiety/stressors. CTA 
from OSH did not show evidence of PE. His CTA did demonstrate 
some findings c/w PNA although he has no clinical sx. EKG did 
not show acute ischemia, although does have Q waves inferiorly 
(similar from prior EKG ___. His trop was mildly elevated to 
.07, and downtrended. No signs or sx to suggest heart failure. 
TTE was performed ___ showed no wall motion abnormalities, 
trivial mitral regurg. Pharmacologic stress test was recommended 
to definitively rule out ACS, but the patient insisted on 
leaving the hospital before the stress test could be performed. 
Risks of leaving the hospital were explained to patient, and 
patient expressed understanding. The patient was started on 
aspirin and atorvastatin dose was increased. 

#LIGHTHEADEDNESS
#PRESYNCOPE
Hx is consistent with orthostasis. No other prodromal sx. EKG 
w/o clear evidence of ischemia or arrhythmia to explain 
symptoms. CTA w/o PE. The patient did not have any recurrent 
symptoms of lightheadedness while inpatient. 

#ELEVATED TROPONIN
Slightly elevated and peaked at 0.07, then downtrended. CK MB 
was wnl, and would expect to be elevated if acute MI. TTE was 
performed ___ that showed no wall motion abnormalities, 
trivial mitral regurg. Pharmacologic stress test was recommended 
to definitively rule out ACS, but the patient insisted on 
leaving hospital before the stress test could be performed. 

#ABNORMAL CTA
CTA read with "patchy bilateral lower lobe airspace disease, 
right greater than left." Pt has no other sx to suggest 
infection or PNA, but this could be responsible for his SOB. 
Urine strep and legionella were sent and pending at time of 
discharge. The patient was discharged on a 5 day course of 
levofloxacin to cover for possible pneumonia. 

#HX OF DVT/PE
#SUPRATHERAPEUTIC INR
Diagnosed in ___ and started on warfarin. INR 6.3 upon 
admission. Denies change in diet or appetite. Unclear why it is 
supratherapeutic. No evidence of bleeding and not at high risk 
for bleeding. Managed at ___. The patient's home 
warfarin was held. His INR was 3.0 at time of discharge. He was 
told to decrease dose of Coumadin to 7.5mg daily at time of 
discharge, with INR recheck on ___. 

#HIVES
Pt with significant hives upon transfer to the floor. Etiology 
unclear. Only given Ativan at OSH, and no medications given in 
the ___ ED. He notes similar reactions in the past while 
staying at the hospital. No evidence of airway compromise while 
inpatient. Skin exam appeared
improved at time of discharge. Benadryl was written for the 
patient, but patient refused.

#HYPERTENSION
Continued home lisinopril.

#HYPERLIPIDEMIA
Increased atorvastatin from 20 mg to 40 mg.

TRANSITIONAL ISSUES:
===========================
[ ] Patient's SOB may have been due to anxiety vs. ACS, but ACS 
could not be fully ruled out as patient insisted on leaving 
prior to stress test. Please ensure patient undergoes stress 
test as an outpatient.
[ ] The patient was started on ASA and his dose of atorvastatin 
was increased.
[ ] Patient's CTA showed possible pneumonia. The patient did not 
have any clinical symptoms of pneumonia, but he was started on 
levaquin to complete 5 day course (last day = ___
[ ] The patient's INR was supratherapeutic at time of admission. 
He was discharged on Coumadin 7.5mg daily with plan for INR 
recheck ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Warfarin 10 mg PO DAILY16 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Levofloxacin 750 mg PO DAILY Duration: 5 Days 
Last day ___. 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*4 Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*0 
4.  Warfarin 7 mg PO DAILY16 
RX *warfarin 7.5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Shortness of breath

SECONDARY DIAGNOSIS: DVT/PE on warfarin, T12 spinal cord injury, 
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you!

You were in the hospital because you had shortness of breath.

Your EKG did not look like you had a heart attack, but one of 
your lab tests showed you had injury to your heart, which is 
concerning for a possible heart attack. You had an 
echocardiogram to take a look at your heart, which did not show 
any signs of valve problems or heart attack. It was recommended 
that you get a stress test to evaluate your heart more closely 
and determine whether you might have a blockage in your heart 
requiring a procedure, but you insisted on leaving the hospital 
before this test was performed. We explained that the risks of 
leaving the hospital prior to this test include further injury 
to your heart, additional heart attacks, with significant risk 
to your health. You noted that you understood these risks and 
wanted to leave and have this test done at a later date.

When you go home, you should take your medicines as prescribed. 
You should follow-up with your doctors as listed, and you should 
get an outpatient stress test. If you notice any new or 
concerning symptoms as listed below, please seek immediate 
medical care.

Wishing you all the best,
Your ___ Treatment Team
 
Followup Instructions:
___